US05589478
A mixture of 4-tert-butyl-N-{6-[2-(4-cyanophenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzensulfonamide (1.31 g), tributyltin azide (1.60 g) and toluene (13 ml) is refluxed under argon atmosphere for 24 hours. After cooling, ethyl acetate and 10% aqueous potassium fluoride solution are added to the reaction solution. The insoluble materials are removed by filtration, and the ethyl acetate layer is concentrated to dryness under reduced pressure. To the residue are added 10% aqueous sodium hydroxide solution and diethyl ether, and the mixture is stirred at room temperature for 20 minutes. The aqueous layer is washed with diethyl ether, and acidified with 10% hydrochloric acid under ice-cooling. The mixture is extracted with ethyl acetate, and the ethyl acetate layer is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent: chloroform: methanol=100: 0~20:1), and crystallized from ethyl acetate to give 4-tert-butyl-N-{5-(4-methylphenyl)-6-[2-(4-(5-tetrazolyl)phenoxy)ethoxy]-pyrimidin-4-yl}benzensulfonamide (1.26 g).

reactant | 4-tert-butyl-N-{6-[2-(4-cyanophenoxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzensulfonamide | 1.31 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=CC=C(C=C1)C#N | C30H30N4O4S
reactant | tributyltin azide | 1.60 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium fluoride | [F-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-tert-butyl-N-{5-(4-methylphenyl)-6-[2-(4-(5-tetrazolyl)phenoxy)ethoxy]-pyrimidin-4-yl}benzensulfonamide | 1.26 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=CC=C(C=C1)C1=NN=NN1 | C30H31N7O4S
